US06498172B1
(3-{[(1-Methyl-1H-imidazole-4-sulfonyl)-(4-pyrazol-1-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared from {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13h, and 1methyl-1H-imidazole-4-sulfonyl chloride following the method described in Example 3, Step B with a reaction time of 2 h. 1H NMR (400 MHz, CDCl3) δ 7.87 (d, 1H), 7.67 (d, 1H), 7.52 (d, 2H), 7.48 (d, 1H), 7.37 (d, 1H), 7.23 (d, 2H), 7.10 (t, 1H), 6.73 (m, 3H), 6.42 (m, 1H), 4.41 (s, 4H), 4.36 (s, 2H), 3.70 (s, 3H), 1.46 (s, 9H); MS 538 (M+1).

reactant | {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
reactant | 1methyl-1H-imidazole-4-sulfonyl chloride | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
product | (3-{[(1-Methyl-1H-imidazole-4-sulfonyl)-(4-pyrazol-1-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)N1N=CC=C1)S(=O)(=O)C=1N=CN(C1)C)=O | C27H31N5O5S
